US08957070B2
7-{1-[(1-Methyl-1H-imidazol-2-yl) sulfonyl]ethyl}-2-(1,3-thiazol-2-yl)-1H-indole
To a mixed solution of 7-{1-[(1-methyl-1H-imidazol-2-yl)thio]ethyl}-2-(1,3-thiazol-2-yl)-1H-indole (0.089 g) in acetonitrile (5 mL) and water (5 mL) was added sodium carbonate-1.5 hydrogen peroxide complex (0.530 g), and the mixture was stirred at room temperature for 4 hr. Saturated aqueous sodium hydrogencarbonate solution and 1N aqueous sodium thiosulfate solution were added, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=50:50-100:0) to give the title compound (0.077 g, yield 64%) as colorless crystals.

reactant | 7-{1-[(1-methyl-1H-imidazol-2-yl)thio]ethyl}-2-(1,3-thiazol-2-yl)-1H-indole | 0.089 g | CN1C(=NC=C1)SC(C)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C17H16N4S2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | 1N | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 5 mL | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 7-{1-[(1-Methyl-1H-imidazol-2-yl) sulfonyl]ethyl}-2-(1,3-thiazol-2-yl)-1H-indole | 0.077 g, yield 64% | CN1C(=NC=C1)S(=O)(=O)C(C)C=1C=CC=C2C=C(NC12)C=1SC=CN1 | C17H16N4O2S2
